** Transfer Functions

.subckt Proportional Y U
B1 Y 0 V=K*V(U)
.param K=1
.ends Proportional

.subckt Derivative Y U
G1 0 N001 U 0 1
L1 N001 0 1 Rser=0
E1 Y 0 N001 0 {T}
.param T=1
.ends Derivative

.subckt Integral Y U
B1 Y 0 V=idt(V(U),Y0*T)/T
.param T=1 Y0=0
.ends Integral

.subckt LimitedIntegral Y U
B1 Y 0 V=idt(V(U),if(V(Y)>=Ymax,Ymax,if(V(Y)<=Ymin,Ymin,Y0))*T,((V(Y)>=Ymax)&(V(U)>0))|((V(Y)<=Ymin)&(V(U)<0)))/T
.param T=1 Y0=0 Ymin=-1T Ymax=1T
.ends LimitedIntegral

.subckt 0thOrderHold Y U
B1 Y 0 V=idt((V(U)-delay(V(U),T)),Y0*i*T)/(i*T)
.param T=1 i=1 Y0=0
.ends 0thOrderHold

.subckt 1stOrderLag Y U
E1 N001 0 U 0 1
R1 N001 N002 1
C1 N002 0 {T}
E2 Y 0 N002 0 {K}
.param K=1 T=1
.ends 1stOrderLag

.subckt 2ndOrderLag Y U
E1 N001 0 U 0 1
R1 N001 N002 {R1}
L1 N002 N003 {L1} Rser=0
C1 N003 0 {C1}
E2 Y 0 N003 0 {K}
.param K=1 w=1 z=1
.param L1=1/w C1=1/w R1=2*z
.ends 2ndOrderLag

.subckt DeadTime Y U
B1 Y 0 V=delay(V(U),T)
.param T=1
.ends DeadTime

.subckt LaggedDerivative Y U
E1 N001 0 U 0 1
C1 N001 N002 {i*T}
R1 N002 0 1
E2 Y 0 N002 0 {1/i}
.param i=1 T=1
.ends LaggedDerivative

.subckt 2ndOrderHighPassFilter Y U
E1 N001 0 U 0 1
R1 N001 N002 {R1}
C1 N002 N003 {C1}
L1 N003 0 {L1} Rser=0
E2 Y 0 N003 0 {K}
.param K=1 w=1 z=1
.param L1=1/w C1=1/w R1=2*z
.ends 2ndOrderHighPassFilter

.subckt 2ndOrderBandPassFilter Y U
E1 N001 0 U 0 1
L1 N001 N002 {L1} Rser=0
C1 N002 N003 {C1}
R1 N003 0 {R1}
E2 Y 0 N003 0 {K}
.param K=1 w=1 z=1
.param L1=1/w C1=1/w R1=2*z
.ends 2ndOrderBandPassFilter

.subckt 2ndOrderBandStopFilter Y U
E1 N001 0 U 0 1
R1 N001 N002 {R1}
C1 N002 N003 {C1}
L1 N003 0 {L1} Rser=0
E2 Y 0 N002 0 {K}
.param K=1 w=1 z=1
.param L1=1/w C1=1/w R1=2*z
.ends 2ndOrderBandStopFilter
